US08058447B2
tert-Butyl 5-cyano-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
100 mg (0.53 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 55.8 mg (0.53 mmol) of sodium 1-cyanoprop-1-en-2-olate, 83.5 mg (0.53 mmol) of tert-butyl 3-amino-crotonate and 31.9 mg (0.53 mmol) of acetic acid in 5 ml of 2-propanol and heated under reflux under argon for 4 h. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. 89 mg (42% of theory) of the title compound are obtained as a yellow solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.53 mmol, 100 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | sodium 1-cyanoprop-1-en-2-olate | 0.53 mmol, 55.8 mg | C(#N)C=C(C)[O-].[Na+]
reactant | tert-butyl 3-amino-crotonate | 0.53 mmol, 83.5 mg | N\C(=C/C(=O)OC(C)(C)C)\C | C8H15NO2
reactant | acetic acid | 0.53 mmol, 31.9 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | tert-Butyl 5-cyano-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | C(#N)C=1C(C(=C(NC1C)C)C(=O)OC(C)(C)C)C=1C=CC=C2C(C=C(OC12)C)=O | C23H24N2O4
